US07462639B2
N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-propionamide
To a solution of 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (150 mg, 0.48 mmol), triethylamine (0.20 ml, 14.50 mmol) in dichloromethane (8.0 ml), propionyl chloride (134 mg, 1.45 mmol) was added at room temperature. The mixture was stirred for 15 hours. The solvent was removed under diminished pressure. After evaporation, the mixture was stirred in acetonitrile/methanol (1:2, 9.0 ml) with aqueous ammonia (3.0 ml) for 3 hours. Water (50 ml) was added and the mixture was extracted three times with ethyl acetate (3×50 ml). The combined organic layers were washed with aqueous hydrochloric acid (1N), brine, dried and evaporated to afford a residue purified by HPLC. The title compound was obtained as white powder (19 mg).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.48 mmol, 150 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | triethylamine | 14.50 mmol, 0.20 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 1.45 mmol, 134 mg | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 8.0 ml | ClCCl | CH2Cl2
product | N-[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-propionamide | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3NC(CC)=O)(C)C)=O | C19H22N6O2
